US07915250B2
1,1-dimethylethyl(2R)-2-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate (74.9 mg, 0.12 mmol) was taken into methanol (1 mL) followed by addition of 4 N HCl in dioxane (1 mL) and the solution was stirred at room temperature for one hour. The solution was then concentrated and the residue partitioned with chloroform and saturated aqueous sodium bicarbonate. The organic layer was washed with brine, dried over anhydrous sodium sulfate then filtered and concentrated. Purification of the residue by silica gel flash chromatography using ethyl acetate then concentrated aqueous ammonia in chloroform and methanol (0.1:10:1) as eluents afforded 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[(2R)-piperidin-2-yl]azetidin-3-ol (57.3 mg) as a colorless amorphous solid. The free base was taken into methanol (1 mL) then brought to about pH 1 by addition of 4 N HCl in dioxane and the solution concentrated. The residue was triturated with ethyl ether to afford a suspension. The solid was collected by filtration to afford 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[(2R)-piperidin-2-yl]azetidin-3-ol hydrochloride salt (49 mg, 72% yield) as a colorless solid. 1H NMR (400 MHz, CDCl3): 8.43-8.39 (d, 1H), 7.41-7.38 (dd, 1H), 7.33-7.31 (dt, 1H), 7.14-7.10 (m, 1H), 6.84-6.80 (m, 1H), 6.63-6.57 (m, 1H), 4.12-3.99 (m, 4H), 3.10-3.08 (d, 1H), 2.72-2.69 (d, 1H), 2.64-2.62 (m, 1H), 1.61-1.58 (m, 2H), 1.36-1.16 (m, 4H); MS (EI) for C21H21F3IN3O2: 532 (MH+).

reactant | 1,1-dimethylethyl(2R)-2-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate | 0.12 mmol, 74.9 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)[C@@H]1N(CCCC1)C(=O)OC(C)(C)C)NC1=C(C=C(C=C1)I)F | C26H29F3IN3O4
reactant | methanol | 1 mL | CO | CH4O
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[(2R)-piperidin-2-yl]azetidin-3-ol | 57.3 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)[C@@H]1NCCCC1)NC1=C(C=C(C=C1)I)F | C21H21F3IN3O2
